Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.56894081178
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],4.62834803594
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11]>>[C:2]1[C:3]([H:4])[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11].[H:1],4.95202297543
[C:5]([H:6])[H:7].[H:1][O:2]/[C:3](=[C:4]\[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.38695129713
[H:5].[O:1]=[C:2]=[C:3]([C:4]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.96902766465
[C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.38954093987
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[O:1],4.1929356354400005
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],1.47882203002
[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],6.2814634436300025
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[O:7][H:8],3.15047542994
[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[O:7][H:8].[H:1][C:2][C:3]#[C:4][C:9]([H:10])([H:11])[H:12],6.154827301880001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:6],2.05681851741
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1]([C:2][C:5]([H:6])([H:7])[H:8])[C:3][H:4],2.9421886
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.15789458733
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.702639697599
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.54737003241
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-1.7490751222
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[H:9].[H:5],4.19748829129
[C:1]#[C:2].[C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.84439058316
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],2.0282091386000003
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.75932472374
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],5.74530531747
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56393117655
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.95817141747
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],4.4118463206800005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],2.899644106
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([C:4]=[O:5])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-1.08718815573
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11],1.8317599762
